US06323235B1
Methyl (2-(2-acetoxyethyl)-3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate
Methyl (2-(2-hydroxyethyl)-3-(2-tetrahydropyranyloxyethyl)benzofuran-7-yloxy)acetate (403 mg), pyridine (0.13 ml) and acetic anhydride (0.3 ml) were dissolved in THF (5 ml) and the solution was stirred at room temperature for 16 hours. The reaction solution was poured into water (50 ml) and the organic layer was separated, followed by extraction twice with ethyl acetate (20 ml). The organic layers were combined and washed with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and with saturated brine, followed by drying the resultant over sodium sulfate. After removing sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was dissolved in methanol (4 ml). To this solution, 1N hydrochloric acid (1 ml) was added and the solution was stirred at room temperature for 2 hours. The reaction solution was poured into water (50 ml) and the resultant was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated aqueous sodium hydrogen carbonate solution and with saturated brine, followed by drying the resultant over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=1/2) using silica gel to obtain the desired compound (412 mg, yield: 42%).

reactant | Methyl (2-(2-hydroxyethyl)-3-(2-tetrahydropyranyloxyethyl)benzofuran-7-yloxy)acetate | 403 mg | OCCC=1OC2=C(C1CCOC1OCCCC1)C=CC=C2OCC(=O)OC | C20H26O7
reactant | pyridine | 0.13 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 50 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl (2-(2-acetoxyethyl)-3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate | 412 mg, yield: 42% | C(C)(=O)OCCC=1OC2=C(C1CCO)C=CC=C2OCC(=O)OC | C17H20O7
